US05273999
A mixture of 1.62 g (10 mmol) of 5-hydroxycoumarin and 10 mL of dry pyridine in 25 mL of dichloromethane was stirred with ice-bath cooling while 4.5 g (16 mmol) of trifluoromethanesulfonic anhydride was added dropwise. The mixture was stirred in the cold for 30 min and then allowed to warm to room temperature and stirred for an additional 30 min before being poured into 3N hydrochloric acid. Work-up with ether in the usual manner gave a yellow solid. Flash chromatography on silica gel, eluting with 2:1 hexane-ethyl acetate afforded 2.6 g (88.4%) of trifluoromethanesulfonic acid 2-oxo-2H-1-benzopyran-5-yl ester as an off-white solid mp 104°-105° C.

reactant | 5-hydroxycoumarin | 10 mmol, 1.62 g | OC1=C2C=CC(OC2=CC=C1)=O | C9H6O3
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 16 mmol, 4.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | trifluoromethanesulfonic acid 2-oxo-2H-1-benzopyran-5-yl ester | 2.6 g, 88.4% | O=C1OC2=C(C=C1)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C10H5F3O5S
